US07205292B2
Step D. tert-Butyl 4-(cyclopropylmethyl)-5-oxo-2-phenyl-1,4-diazepane-1-carboxylate
Triethylamine (0.53 mL, 3.79 mmol) was added to a solution of 4-(cyclopropylmethyl)-2-phenyl-1,4-diazepan-5-one (0.925 g, 3.79 mmol) and di-tert-butyl dicarbonate (0.826 g, 3.79 mmol) in dichloromethane (20 mL). After 18 h, the mixture was diluted with water. The mixture was extracted with dichloromethane, washed with saturated brine, dried over magnesium sulfate, filtered, and concentrated. Purification by silica gel chromatography (100% dichloromethane→95% dichloromethane/methanol) to give the title compound (1.38 g). MS 345 (M+1).

reactant | Triethylamine | 3.79 mmol, 0.53 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(cyclopropylmethyl)-2-phenyl-1,4-diazepan-5-one | 3.79 mmol, 0.925 g | C1(CC1)CN1CC(NCCC1=O)C1=CC=CC=C1 | C15H20N2O
reactant | di-tert-butyl dicarbonate | 3.79 mmol, 0.826 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | tert-Butyl 4-(cyclopropylmethyl)-5-oxo-2-phenyl-1,4-diazepane-1-carboxylate | 1.38 g | C1(CC1)CN1CC(N(CCC1=O)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C20H28N2O3
